US06846827B1
5-Amino-6-chloro-4-[5-(3-fluoro-5-morpholinobenzamido) 2-methylanilino]pyrimidine
Ethereal hydrogen chloride solution (1M, 1.5 ml) was added to a mixture of 5-amino-4,6-dichloropyrimidine (0.512 g), N-(3-amino-4-methylphenyl)-3-fluoro-5-morpholinobenzamide (0.514 g) and n-butanol (10 ml) and the resultant mixture was stirred and heated to reflux for 24 hours. Di-isopropylamine (1 ml) was added and the mixture was allowed to cool to ambient temperature. Water and a mixture of diethyl ether and isohexane were added and the precipitated solid was collected and dried. There was thus obtained the title compound (0.373 g); NMR Spectrum: 2.12 (s, 3H), 3.22 (m, 4H), 3.74 (m, 4H), 5.28 (s, 2H), 6.87 (d, 1H), 7.11 (d, 1H), 7.22 (d. 1H), 7.27 (s, 1H), 7.52 (d, 1H), 7.69 (s, 1H), 7.73 (s, 1H), 8.03 (s, 1H), 10.15 (s, 1H); Mass Spectrum: M−H − 455 & 457.

reactant | hydrogen chloride | 1M, 1.5 ml | Cl | ClH
reactant | 5-amino-4,6-dichloropyrimidine | 0.512 g | NC=1C(=NC=NC1Cl)Cl | C4H3Cl2N3
reactant | N-(3-amino-4-methylphenyl)-3-fluoro-5-morpholinobenzamide | 0.514 g | NC=1C=C(C=CC1C)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O | C18H20FN3O2
reactant | Di-isopropylamine | 1 ml | C(C)(C)NC(C)C | C6H15N
reactant | isohexane | CCCC(C)C | C6H14
solvent | diethyl ether | C(C)OCC | C4H10O
solvent | Water | O | H2O
solvent | n-butanol | 10 ml | C(CCC)O | C4H10O
product | 5-Amino-6-chloro-4-[5-(3-fluoro-5-morpholinobenzamido) 2-methylanilino]pyrimidine | 0.373 g | NC=1C(=NC=NC1Cl)NC1=C(C=CC(=C1)NC(C1=CC(=CC(=C1)N1CCOCC1)F)=O)C | C22H22ClFN6O2
